US07473783B2
To a stirring solution of 4-bromo-5-thiophen-2-yl-2H-pyrazol-3-ylamine (50 mg, 0.205 mmol) in dioxane (1 mL) was added benzoylisothiocyanate (30 μL, 0.225 mmol) dropwise. The reaction mixture was stirred at 90° C. for 17 h. It was then cooled to room temperature and partitioned between ethyl acetate and a saturated aqueous solution of sodium bicarbonate. The organic layer was washed twice with a saturated aqueous solution of sodium bicarbonate, then with brine, and adsorbed on silica gel. Purification on silica gel with 0-80% ethyl acetate in hexane as eluent provided 54 mg (80%) of N-(3-thiophen-2-yl-1H-pyrazolo[3,4-d]thiazol-5-yl)-benzamide as a beige solid. 1H-NMR (d6-DMSO) δ: 13.5 and 13.6 (2 broad s, 1H, NH+tautomer), 12.9 (broad s, 1H, NH), 8.1 (d, 2H), 7.68 and 7.85 (2 dd, 1H, tautomers), 7.66 (t, 1H), 7.58 (t, 2H), 7.34 and 7.53 ( 2 d, 1H, tautomers), 7.17 and 7.22 (2 t, 1H, tautomers); HPLC/MS m/z: 327 [MH]+.

reactant | 4-bromo-5-thiophen-2-yl-2H-pyrazol-3-ylamine | 0.205 mmol, 50 mg | BrC1=C(NN=C1C=1SC=CC1)N | C7H6BrN3S
reactant | benzoylisothiocyanate | 0.225 mmol, 30 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(3-thiophen-2-yl-1H-pyrazolo[3,4-d]thiazol-5-yl)-benzamide | 54 mg, 80% | S1C(=CC=C1)C1=NNC=2N=C(SC21)NC(C2=CC=CC=C2)=O | C15H10N4OS2
